US07772271B2
[4-(1-Cyclopropylmethyl-6-ethoxy-3-iodo-1H-indol-2-yl)-phenyl]-carbamic acid isopropyl ester (100 mg, 0.19 mmol), cyclopropylacetylene (50 μL, 70% in toluene, 0.4 mmol), Pd(PPh3)2Cl2 (6.7 mg, 0.0096 mmol), CuI (5 mg, 0.026 mmol), triethylamine (600 μL), and DMF (600 μL) was stirred at room temperature for 5 h. Additional Pd(PPh3)2Cl2 (5 mg), and cyclopropylacetylene (30 μL) was then added and the reaction mixture was stirred overnight. The reaction mixture was diluted with EtOAc and washed with H2O and aq. HCl. The organic layer was dried, concentrated and purified by silica gel chromatography (3:1 CH2Cl2/hexane), followed by a second chromatography (7:3 hexane/ether) to provide [4-(3-cyclopropylethynyl-1-cyclopropylmethyl-6-ethoxy-1H-indol-2-yl)-phenyl]-carbamic acid isopropyl ester (21 mg, 24%) as a white solid.

reactant | [4-(1-Cyclopropylmethyl-6-ethoxy-3-iodo-1H-indol-2-yl)-phenyl]-carbamic acid isopropyl ester | 0.19 mmol, 100 mg | C(C)(C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1I)OCC)CC1CC1)=O | C24H27IN2O3
reactant | cyclopropylacetylene | 0.4 mmol, 50 μL | C1(CC1)C#C | C5H6
reactant | triethylamine | 600 μL | C(C)N(CC)CC | C6H15N
reactant | DMF | 600 μL | CN(C)C=O | C3H7NO
reactant | cyclopropylacetylene | 30 μL | C1(CC1)C#C | C5H6
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.0096 mmol, 6.7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.026 mmol, 5 mg | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | [4-(3-cyclopropylethynyl-1-cyclopropylmethyl-6-ethoxy-1H-indol-2-yl)-phenyl]-carbamic acid isopropyl ester | 21 mg, 24% | C(C)(C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#CC1CC1)OCC)CC1CC1)=O | C29H32N2O3
